2163-04-08 06:42:00 Physician Resident Progress Note
Chief Complaint: Bowel perforation
   24 Hour Events:
 MULTI LUMEN - START [**2163-4-8**] 02:15 AM
   Allergies:
   Allopurinol
   Rash; Abdominal
   Last dose of Antibiotics:
   Metronidazole - [**2163-4-7**] 11:43 PM
   Piperacillin/Tazobactam (Zosyn) - [**2163-4-8**] 12:58 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2163-4-8**] 02:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: Abdominal pain
   Flowsheet Data as of  [**2163-4-8**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.7
   Tcurrent: 35.8
C (96.5
   HR: 121 (98 - 121) bpm
   BP: 99/42(55) {83/37(47) - 109/82(87)} mmHg
   RR: 13 (13 - 25) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    251 mL
                                                                  1,902 mL
   PO:
             TF:
   IVF:
                                                                    251 mL
                                                                  1,902 mL
   Blood products:
   Total out:
                                                                      5 mL
                                                                      0 mL
   Urine:
                                                                      5 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    246 mL
                                                                  1,902 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///17/
   Physical Examination
   General Appearance: pain
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Percussion: Dullness : ), (Breath Sounds:
   Diminished: )
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   149 K/uL
   13.0 g/dL
   132 mg/dL
   4.3 mg/dL
   17 mEq/L
   5.4 mEq/L
   101 mg/dL
   112 mEq/L
   143 mEq/L
   40.3 %
   52.5 K/uL
        [image002.jpg]
                             [**2163-4-7**]  10:58 PM
                             [**2163-4-8**]  04:47 AM
   WBC
   38.2
   52.5
   Hct
   30.2
   40.3
   Plt
   103
   149
   Cr
   2.2
   4.3
   Glucose
   86
   132
   Other labs: PT / PTT / INR:13.7/27.6/1.2, ALT / AST:85/59, Alk Phos / T
   Bili:154/1.0, Amylase / Lipase:1078/417, Differential-Neuts:38.0 %,
   Band:3.0 %, Lymph:53.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:2.8
   mmol/L, Albumin:2.6 g/dL, LDH:242 IU/L, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL,
   PO4:6.9 mg/dL
   Imaging: cxr: [**Doctor First Name **] in right atrium need to pull back
   Microbiology: blood and urine cx ngtd
   Assessment and Plan
   # Bowel perforation
   Patient suffered perforation during ERCP, most likely in CBD or
   duodenum.
   - Patient to go to surgery this AM.
   - IVF with lactated ringer's
   - ABX emprically with Zosyn and Flagyl
   - Central line in place, monitor CVP and UOP, MAP>65 with fluid bolus,
   aggressive fluid resuscitation
   - Pain control with morphine
   - Check frequent VBG: becoming acidotic
   - NPO
   - NGT contraindicated given unclear where perforation is exactly
   - Will need to intubate of condition deteriorates
   .
   # Stage V CKD
   - GFR<10
   - urine electrolytes consist with ATN, FENA 9.1%
   - renal consultation for possible HD line placement in AM given she may
   likely run into problems with overload
   .
   # HTN
   - hold meds
   .
   # FEN- NPO
   .
   # FULL CODE
   .
   # ICU
   - PPI
   - Pneumoboots
   - Bowel regimen
   ICU Care
   Nutrition: npo
   Glycemic Control:  ssi
   Lines:
   20 Gauge - [**2163-4-7**] 11:50 PM
   Multi Lumen - [**2163-4-8**] 02:15 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2163-04-08 11:25:00 Physician Attending Progress Note
Chief Complaint: perforation post-ERCP
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   87 yo F with CLL, CKD (b/l 2.2-2.6) admitted with gallstone
   pancreatitis
 perforation/pneumoperitoneum  post-ercp with
   sphincterotomy and stone extraction.
   24 Hour Events:
 MULTI LUMEN - START [**2163-4-8**] 02:15 AM
   ct abd
free air
   r sq tlc placed, aline
   LR fluids
   OR this am
ex lap, no obvious perf id
d,  2L bile in peritoneum,
   placed post pyloric G /J tube
 [**Hospital Unit Name 44**]
   Remains intubated, on levophed
   History obtained from ho
   Allergies:
   Allopurinol
   Rash; Abdominal
   Last dose of Antibiotics:
   Metronidazole - [**2163-4-7**] 11:43 PM
   Piperacillin/Tazobactam (Zosyn) - [**2163-4-8**] 12:58 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2163-4-8**] 02:14 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-4-8**] 11:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.7
   Tcurrent: 35.2
C (95.4
   HR: 120 (98 - 121) bpm
   BP: 113/43(59) {83/37(47) - 113/82(87)} mmHg
   RR: 29 (13 - 29) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 3 (3 - 3)mmHg
   Total In:
                                                                    251 mL
                                                                  4,449 mL
   PO:
   TF:
   IVF:
                                                                    251 mL
                                                                  4,449 mL
   Blood products:
   Total out:
                                                                      5 mL
                                                                      0 mL
   Urine:
                                                                      5 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    246 mL
                                                                  4,449 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.20/37/223/17/-12- (ac 16 550 5 60%)
   PaO2 / FiO2: 446
   Physical Examination
   Intubated, sedated, frail appearing elderly F
   R sc line
   Without JVD
   Rhonci, symm cw excursion
   Reg rate
   + bs, wounds dressed, g j tubes
   Peripheral Vascular: (Right radial pulse:present), (Left radial
   pulse:present), (Right DP pulse:present), (Left DP pulse:present)
   Skin:  warm
   Neurologic: Responds to:sedated
   Labs / Radiology
   13.0 g/dL
   149 K/uL
   108 mg/dL
   4.3 mg/dL
   17 mEq/L
   3.6 mEq/L (5.4)
   101 mg/dL
   121 mEq/L
   136 mEq/L
   31
   52.5 K/uL
        [image002.jpg]
                             [**2163-4-7**]  10:58 PM
                             [**2163-4-8**]  04:47 AM
                             [**2163-4-8**]  08:27 AM
                             [**2163-4-8**]  09:08 AM
   WBC
   38.2
   52.5
   Hct
   30.2
   40.3
   32
   31
   Plt
   103
   149
   Cr
   2.2
   4.3
   TCO2
   18
   15
   Glucose
   86
   132
   109
   108
   Other labs: PT / PTT / INR:13.7/27.6/1.2, ALT / AST:85/59, Alk Phos / T
   Bili:154/1.0, Amylase / Lipase:1078/417, Differential-Neuts:38.0 %,
   Band:3.0 %, Lymph:53.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:2.0
   mmol/L, Albumin:2.6 g/dL, LDH:242 IU/L, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL,
   PO4:6.9 mg/dL
   Imaging: ct abd--free air
   cxr--rotated, r sc line in good position
   Microbiology: bl urine cx pending
   Assessment and Plan  sepsis, acute on ckd, hypotension in setting of
   perforated viscous after emergent ercp for gallstone pancreatits
   # Perforated viscus post-ERCP
   now s/p ex lap, no clear site of perf id'd but with 2 L bile in abd
   broad antibx for bowel flora
vanco zosyn
   f/u cx data
   # hypotension
   --sepsis/med effect (propofol)
   aggressive fluid resus
   trend lactate, cvp goal [**7-3**]
   wean pressors for map > 60
   # acidosis
   check CVP
   LR boluses as above
   follow lactates
   wean off pressors as tolerated
   cvvh
   # resp failure--intubated pre-OR
   adjust vent to correct metabolic acidosis
      decrease tv to 8 cc /kg, follow abg
   increase MV pending repeat gas by increasing RR
   wean o2
   # ARF on ckd
   renal following, freq lytes
   initiate cvvh
   # Leukocytosis (CLL with b/l 20
    f/u cxs
    broad antibx
   # Cholecystitis - s/p ERCP, on zosyn, flagyl
   ICU Care
   Nutrition:
   Comments: npo
   Glycemic Control:
   Lines:
   20 Gauge - [**2163-4-7**] 11:50 PM
   Multi Lumen - [**2163-4-8**] 02:15 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill